US05589476
12.1.2. (S)-3-Methyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazepin-9-amine
14.8 g (0.072 mol) of (S)-9-amino-3-methyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione in 455 ml of dioxane are heated at the reflux temperature with stirring for 48 hours in the presence of 17 g of lithium aluminium hydride. The reaction mixture is cooled in an ice bath and then, slowly and successively, 17 ml of water, 17 ml of a 5N sodium hydroxide solution and 45 ml of water are added. The mixture is left stirring for 2 hours at room temperature, filtration is carried out and washing is carried out with hot tetrahydrofuran and with dichloromethane. The organic phase is recovered and is concentrated. There are obtained 12.7 g of product which is used as is in the following stage.

reactant | (S)-9-amino-3-methyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 0.072 mol, 14.8 g | NC1=CC=CC=2C(N[C@H](C(NC21)=O)C)=O | C10H11N3O2
reactant | lithium aluminium hydride | 17 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 17 ml | O | H2O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | water | 45 ml | O | H2O
solvent | dioxane | 455 ml | O1CCOCC1 | C4H8O2
product | (S)-3-Methyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazepin-9-amine | 12.7 g | C[C@H]1CNC2=C(CN1)C=CC=C2N | C10H15N3
